US04379167
4-Chloro-1-(3,5-dimethylphenoxy)-2-butanol
To a mixture of 245 g. (2 moles) of 3,5-dimethylphenol and 2 liters of 2 N sodium hydroxide was added 2.5 moles of 1,4-dichlorobutanol with stirring at 65° C. overnight. The solid precipitate which separated on cooling was filtered and washed with water to neutrality. Recrystallization with isopropyl ether yielded 375 g. of white crystalline solid which melted at 74°-76° C.

reactant | 3,5-dimethylphenol | 2 moles | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | 1,4-dichlorobutanol | 2.5 moles | ClC(CCCCl)O | C4H8Cl2O
reactant | sodium hydroxide | 2 N, 2 liters | [OH-].[Na+]
product | 4-Chloro-1-(3,5-dimethylphenoxy)-2-butanol | ClCCC(COC1=CC(=CC(=C1)C)C)O | C12H17ClO2
